US08426449B2
Step 4: [3-(4-Amino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid ethyl ester
[3-(2-{[Methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester (0.174 g, 0.34 mmol) and palladium on carbon (10%; 0.060 g) were combined in EtOH (20 mL) and stirred under H2 in a Parr apparatus overnight at room temperature. Once no starting material was seen by analytical LCMS, the mixture was filtered through Celite, and the filter cake was washed with EtOH. The filtrate was concentrated to give the title compound.

reactant | [3-(2-{[Methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester | 0.34 mmol, 0.174 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CN([C@H](CC1=CC=CC=C1)C)C(=O)OC)=O | C28H30N2O7
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | [3-(4-Amino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)N)CN([C@H](CC1=CC=CC=C1)C)C(=O)OC)=O | C28H32N2O5
